US07056920B2
Step 6: Preparation of 4-bromo-7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine
A solution of 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol (2.89 g, 9.50 mmol) and phosphorus tribromide (4.20 mL, 12.0 g, 44.0 mmol) in bromobenzene (50.0 mL) was refluxed for 1 h. After cooling down to room temperature, the mixture was diluted with CHCl3. Saturated NaHCO3 solution was added to neutralize and separated immediately. The aqueous layer was extracted with CHCl3 (2×). The combined CHCl3 solution was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (silica gel, 1/5 EtOAc/heptane) to afford 3.13 g (90%) of yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.34 (d, J=8.6 Hz, 1H), 7.13 (d, J=2.6 Hz, 1H), 6.98 (dd, J=8.6, 2.6 Hz, 1H), 6.73 (s, 1H), 6.60 (s, 1H), 3.91 (s, 3H), 2.40 (s, 3H), 2.27 (s, 3H); MS m/z 366.99 (M++H).

reactant | 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol | 9.50 mmol, 2.89 g | ClC1=C(C=CC(=C1)OC)C1=C(C=C2N1N=C(C=C2O)C)C | C16H15ClN2O2
reactant | phosphorus tribromide | 44.0 mmol, 4.20 mL, 12.0 g | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | bromobenzene | 50.0 mL | BrC1=CC=CC=C1 | C6H5Br
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazine | 3.13 g, 90% | BrC=1C=2N(N=C(C1)C)C(=C(C2)C)C2=C(C=C(C=C2)OC)Cl | C16H14BrClN2O
